reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6]>>[O:1]([C@@:2]([C:3]([H:8])([H:9])[H:10])([C:4][O:5][H:11])[H:7])[H:6],57.1052852038385
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])=[C:6]([H:12])[H:13],73.3887359229427
[C:1]([N:2]([C@@:3]1([O:4][H:15])[C@@:5]([C:7]([H:16])([H:17])[H:18])([H:12])[C:6]1([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],38.0433980571381
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](/[O:4][H:14])[C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:13])[H:15])[H:12])([H:8])([H:9])[H:10].[H:11][H:16],111.863547614462
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[N:3]=[C:5](/[O:6][C:4]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],73.5849985398711
[C:1]1([H:8])([H:10])[O:2][C@@:3]12[O:4][C@:6]([O:7][H:9])([H:13])[C:5]2([H:11])[H:12]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],48.0566347555174
[C+:3]([O:4][H:13])=[C:5]([O-:6])[H:14].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],9.035274148977607
[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[O:6]1)[H:10]>>[C:1]1([H:7])([H:8])[N:2]([H:9])[O:6][C:5]([H:12])([H:13])[C:4]([H:11])=[C:3]1[H:10],108.524282579649
[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([O:3][H:7])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9],65.8237471940675
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:7]=[C:6]=[C:4]([C:5]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],101.45972256401801
[C:1]([C:2]([O:3][H:11])([O:6][H:16])[H:10])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])[H:12]>>[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9],28.834832840736894
[C:1]([C@:3]1([N:5]([C:6]([H:13])([H:14])[H:15])[H:12])[C:2]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],73.6919534235146
[C:1]([C:2]([C:3]([C:4]#[C:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3](=[C:4]=[C:5]([H:12])[H:13])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],79.7744902408804
[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O+:2]=[C-:3][C:4]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8].[C:5]([H:9])([H:13])([H:14])[H:15],81.93149009171579
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[C:3](=[O:4])([H:10])[H:11].[H:8][H:12].[N:1](=[C:2](\[C:5]#[N:6])[H:9])\[H:7],92.1084594642869
[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1](/[N:2]=[C:3](/[O:4][H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8],42.7621559937763
[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:4]([C:3](=[C:2]([H:10])[H:11])[C:6]([H:13])([H:14])[H:15])[O:5][H:12])([H:7])([H:8])[H:9],98.34547885720907
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]1([C@@:5]([C:4]([H:13])([H:14])[H:15])([O:6][H:7])[H:16])[H:12]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],72.77416437670111
[C:1](/[C:2]([O:3][H:12])=[C:4](/[C:5]([H:14])([H:15])[H:16])[H:13])([H:8])([H:9])[H:10].[C:6]=[N:7][H:11]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],71.5832529406801
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[N:6]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:4]=[O:5])([H:7])([H:8])[H:9].[C:3]([N:6]([H:13])[H:14])([H:10])([H:11])[H:12],92.7558281155165
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C@@:4]([C:6]([H:14])([H:15])[H:16])([H:10])[O:5]1)([H:7])([H:8])[H:9],79.7665732402798
[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[O+:3][C-:5]=[C:6]([H:12])[C:4]1([H:10])[H:11])([H:7])([H:8])[H:9],59.1057498750346
[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][O:4][C:5]#[C:6][H:10])([H:7])([H:8])[H:9],99.48400548463492
